US05096902
Preparation of 1-(4-fluorophenyl)-3-(2-methyl-3-thiazolidinyl)propan-1-one
3.73 g (0.02 mol) of β-chloro-4-fluoropropiophenone are added in little portions at room temperature to a suspension containing 2.06 g (0.02 mol) of 2-methylthiazolidine and 1.64 g (0.02 mol) of anhydrous sodium acetate in 20 ml of ethanol over 30 minutes under stirring. After stirring for an additional 3 hours, the reaction mixture is evaporated, saturated sodium hydrogen carbonate solution is added to the oily yellow residue and it is extracted twice with 30 ml of ether each. After drying and evaporating the extract, the oily yellow residue is dissolved in acetone and acidified by 48% hydrobromic acid. Thus, 4.26 g of a white crystalline product are obtained and recrystallized twice from ethanol to give 2.00 g (29.9%) of hydrobromide of the title compound, m.p.: 151°-152° C.

reactant | β-chloro-4-fluoropropiophenone | 0.02 mol, 3.73 g | C1=CC(=CC=C1C(=O)CCCl)F | C9H8ClFO
reactant | 2-methylthiazolidine | 0.02 mol, 2.06 g | CC1SCCN1 | C4H9NS
reactant | sodium acetate | 0.02 mol, 1.64 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(4-fluorophenyl)-3-(2-methyl-3-thiazolidinyl)propan-1-one | 4.26 g | FC1=CC=C(C=C1)C(CCN1C(SCC1)C)=O | C13H16FNOS
